US08071779B2
(S)—N-(Piperidin-3-yl)-1H-indazol-5-amine Dihydrochloride
A 1 L round bottom flask was charged with (3S)-tert-butyl 3-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-ylamino)piperidine-1-carboxylate (32.4 g, 0.0809 mol, 1.00 eq) and EtOH (500 mL). To the ethanol solution was added 4N HCl in dioxane (40.0 mL 0.160 mol, 2.0 eq), and the solution was stirred at room temperature for 2 h, giving an inhomogeneous dark brown solution. The solution was then heated to 75° C. with a mechanical stirrer and maintained at that temperature for 2 h, after which it was cooled to room temperature. A large amount of fine white solid was observed to form and was collected by filtration, and the filter cake was washed with isopropyl acetate (500 mL). The solid was dried in a vacuum oven at 45° C. for 3 days to give the title compound as an off-white powder (18.1 g, 77%).

reactant | (3S)-tert-butyl 3-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-ylamino)piperidine-1-carboxylate | 0.0809 mol, 32.4 g, 1.00 eq | O1C(CCCC1)N1N=CC2=CC(=CC=C12)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H32N4O3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.160 mol, 40.0 mL, 2.0 eq | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | 500 mL | CCO | C2H6O
product | (S)—N-(Piperidin-3-yl)-1H-indazol-5-amine Dihydrochloride | 18.1 g, 77% | Cl.Cl.N1C[C@H](CCC1)NC=1C=C2C=NNC2=CC1 | InChI=1S/C12H16N4.2ClH/c1-2-11(8-13-5-1)15-10-3-4-12-9(6-10)7-14-16-12;;/h3-4,6-7,11,13,15H,1-2,5,8H2,(H,14,16);2*1H/t11-;;/m0../s1
